US05464864
3-Amino-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole (260 mg, 1.0 mmol) was suspended in dry THF (5 ml), and di-tert butyl dicarbonate (320 mg, 1.5 mmol) was added. A clear solution was obtained after 10 min. The mixture was left to stir for 20 hr, then the solvent was removed, and the residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate solution, and dried (MgSO4). After removal of ethyl acetate, the residue was triturated with ether and hexane to give 3-t-butyloxycarbonylamino-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole (310 mg).

reactant | 3-Amino-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole | 1.0 mmol, 260 mg | NC1CCC=2NC3=CC=C(C=C3C2C1)C(=O)OCC | C15H18N2O2
reactant | di-tert butyl dicarbonate | 1.5 mmol, 320 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-t-butyloxycarbonylamino-6-ethoxycarbonyl-1,2,3,4-tetrahydrocarbazole | 310 mg | C(C)(C)(C)OC(=O)NC1CCC=2NC3=CC=C(C=C3C2C1)C(=O)OCC | C20H26N2O4
